US08431563B2
To a 100-mL round-bottomed flask was added ethyl glycyl-3-methoxyphenylalaninate trifluoroacetate (598 mg, 2.13 mmol), Hünig's base (0.371 mL, 2.13 mmol), and MeOH (20 mL). The reaction mixture was stirred at 75° C. for 24 h. The mixture was allowed to cool to room temperature. The solid formed was collected by filtration and washed with MeOH to give 3-(3-methoxybenzyl)-2,5-piperazinedione (423 mg).

reactant | ethyl glycyl-3-methoxyphenylalaninate trifluoroacetate | 2.13 mmol, 598 mg | FC(C(=O)O)(F)F.NCC(=O)N[C@@H](CC1=CC(=CC=C1)OC)C(=O)OCC
reactant | Hünig's base | 2.13 mmol, 0.371 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | MeOH | 20 mL | CO | CH4O
product | 3-(3-methoxybenzyl)-2,5-piperazinedione | 423 mg | COC=1C=C(CC2C(NCC(N2)=O)=O)C=CC1 | C12H14N2O3
